US04031246
a. 4-(6-Bromohexyl)-3,5-heptanedione.
By selecting the appropriate alkane dibromide and dione or keto-ester, there can be prepared 3-(3-bromopropyl)-2,4-pentanedione, 4-(6-bromohexyl)-2,2,6,6-tetramethyl-3,5-pentanedione, ethyl 2-acetyl-8-bromooctanoate, 4-[2-(2-bromoethoxy)ethyl]-3,5-pentanedione, and the like.

reactant | 3-(3-bromopropyl)-2,4-pentanedione | BrCCCC(C(C)=O)C(C)=O | C8H13BrO2
reactant | ethyl 2-acetyl-8-bromooctanoate | C(C)(=O)C(C(=O)OCC)CCCCCCBr | C12H21BrO3
reactant | 4-[2-(2-bromoethoxy)ethyl]-3,5-pentanedione | BrCCOCCC(C(CC)=O)C=O | C9H15BrO3
product | 4-(6-Bromohexyl)-3,5-heptanedione | BrCCCCCCC(C(CC)=O)C(CC)=O | C13H23BrO2
